US04448990
Alternatively, 0.5 g. of dl-2-benzyloxy-6-azido-5,6,7,8-tetrahydro-1-naphthalenecarboxamide were dissolved in 100 ml. of a 1:1 THF/ethanol solvent mixture. About 1 g. of Raney nickel were added and the mixture stirred at about 0° C. while 5 ml. of hydrazine hydrate were added thereto in dropwise fashion. After the addition had been completed, the reaction mixture was stirred for 4 hours at ambient temperature after which time it was filtered. The solvent was removed from the filtrate leaving a yellow residue. TLC indicated a single spot with Rf =0.63 using a 63:7:27:3 chloroform/methanol/acetone/ammonium hydroxide solvent system. Yield of dl-2-benzyloxy-6-amino-5,6,7,8-tetrahydro-1-naphthalenecarboxamide was 0.46 g. (100%). This 0.46 g. sample was alkylated with propionaldehyde and sodium cyanoborohydride by the procedure of Example 1 to yield dl-2-benzyloxy-6-di-n-propylamino-5,6,7,8-tetrahydro-1-naphthalenecarboxamide hydrochloride. TLC (9:1 chloroform/methanol) Rf =0.40.

reactant | 2-benzyloxy-6-azido-5,6,7,8-tetrahydro-1-naphthalenecarboxamide | C(C1=CC=CC=C1)OC1=C(C=2CCC(CC2C=C1)N=[N+]=[N-])C(=O)N | C18H18N4O2
reactant | hydrazine hydrate | O.NN
reactant | 2-benzyloxy-6-amino-5,6,7,8-tetrahydro-1-naphthalenecarboxamide | C(C1=CC=CC=C1)OC1=C(C=2CCC(CC2C=C1)N)C(=O)N | C18H20N2O2
reactant | propionaldehyde | C(CC)=O | C3H6O
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
reactant | chloroform methanol acetone ammonium hydroxide | C(Cl)(Cl)Cl.CO.CC(=O)C.[OH-].[NH4+]
solvent | THF ethanol | C1CCOC1.C(C)O
catalyst | Raney nickel | [Ni] | Ni
product | 2-benzyloxy-6-di-n-propylamino-5,6,7,8-tetrahydro-1-naphthalenecarboxamide hydrochloride | Cl.C(C1=CC=CC=C1)OC1=C(C=2CCC(CC2C=C1)N(CCC)CCC)C(=O)N | InChI=1S/C24H32N2O2.ClH/c1-3-14-26(15-4-2)20-11-12-21-19(16-20)10-13-22(23(21)24(25)27)28-17-18-8-6-5-7-9-18;/h5-10,13,20H,3-4,11-12,14-17H2,1-2H3,(H2,25,27);1H
